2123-05-16 21:43:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2123-05-17 07:54:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   Insulin ggt increased to 21 U/hr
   FS finally < 200 so started D5 1/2 NS w/ 20 KCL at 100/hr
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 11 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-17**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 90 (87 - 116) bpm
   BP: 124/78(88) {122/72(84) - 139/100(124)} mmHg
   RR: 17 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,687 mL
                                                                  1,734 mL
   PO:
                                                                    750 mL
                                                                    350 mL
   TF:
   IVF:
                                                                  1,937 mL
                                                                  1,384 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                  1,500 mL
   Urine:
                                                                  2,550 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    137 mL
                                                                    234 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.19/18/122/14/-19
   Physical Examination
   GENERAL: Pleasant, tired-appearing, NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD.
   CARDIAC: Regular rhythm, borderline tachycardic. Normal S1, S2. No
   murmurs, rubs or [**Last Name (un) 1011**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Mildly distended w/ mild TTP diffusely, no g/m/r, no HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate.
   Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   168 mg/dL
   0.7 mg/dL
   14 mEq/L
   3.4 mEq/L
   4 mg/dL
   111 mEq/L
   136 mEq/L
        [image002.jpg]
                             [**2123-5-16**]  02:27 PM
                             [**2123-5-16**]  05:25 PM
                             [**2123-5-16**]  07:15 PM
                             [**2123-5-16**]  11:58 PM
                             [**2123-5-17**]  05:00 AM
   Cr
   0.9
   0.8
   0.7
   TCO2
   7
   Glucose
   [**Telephone/Fax (3) 7756**]72
   168
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.1 mg/dL
   Microbiology: [**5-16**] Blood and urine cx pending
   [**5-16**] MRSA swab pending
   21 F w/o significant pmh but w/ a strong family history of diabetes p/w
   DKA.
   .
   #. DKA: No h/o DM but family h/o diabetes.  AG 29 on admission w/ BS >
   600.  No obvious precipitant and it appears that it has been going on
   for several weeks.  Given presentation w/ DKA and young age seems c/w
   DM1 although given FH could be DM2.
   - q 4 hrs chemistry
   - continue insulin ggt until gap closes/ pH normalizes
   - when gap closes and able to take [**Last Name (LF) 4**], [**First Name3 (LF) **] given 15 U Lantus w/
   humalog at the rate of the insulin ggt and then turn off the ggt in one
   hour ([**First Name8 (NamePattern2) **] [**Last Name (un) 303**] recs)
   - send HgA1c, C-peptide and anti-GAD ab
   - blood, urine cx to eval for infection
   - repeat CXR in am
   - Volume resusitation
   .
   # Acute Renal Failure: Likely pre-renal azotemia now resolved with IVF.
   - Cont to trend
   .
   # Abnormal prior PAP:
   - Outpt follow up
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:  Insulin infusion, Blood sugar well controlled
   Lines:
   18 Gauge - [**2123-5-16**] 04:00 PM
   20 Gauge - [**2123-5-16**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU -> call out later today if stable

2123-05-17 09:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   21 yo woman admitted [**5-16**] for new dx of DM and DKA
   24 Hour Events:
   No overnight events. Remained on insulin gtt overnight given persistent
   anion gap .  Gtt stopped after closing of gap and after getting
   glargine and humalog but recurrence of gap after eating.
   This am noting mild diffuse abd pain and mild cough. No BM x 5d
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 11 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-17**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 90 (87 - 116) bpm
   BP: 121/78(88) {121/72(84) - 139/100(124)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,687 mL
                                                                  2,234 mL
   PO:
                                                                    750 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  1,937 mL
                                                                  1,734 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                  1,500 mL
   Urine:
                                                                  2,550 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    137 mL
                                                                    734 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.19/18/122/14/-19
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: LLQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   168 mg/dL
   0.7 mg/dL
   14 mEq/L
   3.4 mEq/L
   4 mg/dL
   111 mEq/L
   136 mEq/L
        [image002.jpg]
                             [**2123-5-16**]  02:27 PM
                             [**2123-5-16**]  05:25 PM
                             [**2123-5-16**]  07:15 PM
                             [**2123-5-16**]  11:58 PM
                             [**2123-5-17**]  05:00 AM
   Cr
   0.9
   0.8
   0.7
   TCO2
   7
   Glucose
   [**Telephone/Fax (3) 7756**]72
   168
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.1 mg/dL
   Imaging: CXR ([**5-17**])- clear
   Microbiology: [**5-17**] Blood and urine- pending
   [**5-17**] MRSA screen- pending
   Assessment and Plan
 NEW ONSET DIABETIC KETOACIDOSIS (DKA)-no clear precipitating factor,
   perhaps simply new diagnosis vs URI given cough
   -resume insulin gtt given recurrent gap.
   -plan to transition gtt to glargine + humalog and sliding scale with
   drip once gap closes again
   -to start a solid diet today
   -fluid resuscitation; continue to replete as osmotic diuresis has left
   patient even on I/O despite IVF
   -follow serial lytes --> replete phos
   -[**Last Name (un) 303**] following
   -f/u HgA1c, C-peptide and anti-GAD ab
 CONSTIPATION- start scheduled laxatives/ stool softeners
 COUGH- worse with lying flat? Question if post-nasal drip related to
   URI vs seasonal allergies
   -could start antihistamine such as [**Doctor First Name **], Zyrtec or Claritin
   -prn cough suppression if troubled by cough
   ICU Care
   Nutrition:
   Comments: diabetic diet
   Glycemic Control:  Insulin infusion, Blood sugar well controlled,
   Comments: transitioning to glargine and humalog
   Lines:
   18 Gauge - [**2123-5-16**] 04:00 PM
   20 Gauge - [**2123-5-16**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :keep in icu pending resolution of gap
   Total time spent: 30 minutes

2123-05-18 07:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Gap opened  up yesterday after starting long acting agents
   - restarted on insulin gtt
   History obtained from MD
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-18**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 85 (84 - 107) bpm
   BP: 112/59(71) {112/59(71) - 149/96(102)} mmHg
   RR: 16 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  8,259 mL
                                                                  1,500 mL
   PO:
                                                                  4,170 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  4,089 mL
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                  6,800 mL
                                                                  1,750 mL
   Urine:
                                                                  6,800 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,459 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress, tired asking for food, tearful
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, erythema on post pharynyx
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: LLQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   11.9 g/dL
   224 K/uL
   174 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.0 mEq/L
   5 mg/dL
   107 mEq/L
   138 mEq/L
   34.3 %
   6.7 K/uL
        [image002.jpg] No Anion Gap
                             [**2123-5-16**]  02:27 PM
                             [**2123-5-16**]  05:25 PM
                             [**2123-5-16**]  07:15 PM
                             [**2123-5-16**]  11:58 PM
                             [**2123-5-17**]  05:00 AM
                             [**2123-5-17**]  12:00 PM
                             [**2123-5-17**]  05:45 PM
                             [**2123-5-17**]  11:14 PM
                             [**2123-5-18**]  03:48 AM
   WBC
   6.7
   Hct
   34.3
   Plt
   224
   Cr
   0.9
   0.8
   0.7
   0.6
   0.7
   0.6
   0.6
   TCO2
   7
   Glucose
   [**Telephone/Fax (3) 7756**]72
   168
   269
   [**Telephone/Fax (3) 7765**]
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.2 mg/dL
   Clx data: negative to date [**5-16**] blood and urine
   Assessment and Plan
   21 yo previously healthy female with new onset  DKA (gap 29, sugar 600)
   with strong family hx of DM.
 NEW ONSET DIABETIC KETOACIDOSIS (DKA)-no clear precipitating factor,
   perhaps simply new diagnosis vs URI given cough. Had recurrence of
   anion gap on attempt to transition to long acting, will try again
   today.
   -cont  insulin gtt given recurrent gap.
   -plan to transition gtt to glargine + humalog and sliding scale and off
   drip this AM.
   -Advance diet
   -D5
 NS at 100 cc/hr with plan to turn off when tolerating PO
   -follow serial lytes --> replete phos, Mg, K, and Ca
   -[**Last Name (un) 303**] following, appreciate input
   -f/u HgA1c, C-peptide and anti-GAD ab
 CONSTIPATION- start scheduled laxatives/ stool softeners
 COUGH-  rule out infection, more likely to be seasonal allergies
   -Obtain throat swa, sputum clx.
   - can start inhaled nasal steroid if sputum neg
   Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-5-16**] 04:00 PM
   20 Gauge - [**2123-5-16**] 04:00 PM
   Prophylaxis:
   DVT: pt is mobile
   Stress ulcer: N/A no inidication
   VAP:
   Comments:
   Communication:  Comments: Social work consult.
   Code status: Full code
   Disposition :ICU for now pending resolution of insulin gtt
   Total time spent: 45 minutes

2123-05-18 08:29:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   - Given glargine, humalog at breakfast -> insulin gtt D/Cd
   - Blood sugars started to rise throughout the day to >200 at lunch, >
   400 after lunch despite increasing humalog
   - Repeat chem 7 with slight anion gap -> restarted insulin gtt, IVF
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   c/o mild sore throat, cough
   Flowsheet Data as of  [**2123-5-18**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 85 (84 - 107) bpm
   BP: 112/59(71) {112/59(71) - 149/96(102)} mmHg
   RR: 16 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  8,259 mL
                                                                  1,552 mL
   PO:
                                                                  4,170 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  4,089 mL
                                                                  1,152 mL
   Blood products:
   Total out:
                                                                  6,800 mL
                                                                  1,750 mL
   Urine:
                                                                  6,800 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,459 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   GENERAL: Pleasant, tired-appearing, NAD
   HEENT: MMM, mild erythema of posterior pharynx
   CARDIAC: Regular rhythm, borderline tachycardic. Normal S1, S2. No
   murmurs, rubs or [**Last Name (un) 1011**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Soft, nt, nd, nabs
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate.
   Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   224 K/uL
   11.9 g/dL
   174 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.0 mEq/L
   5 mg/dL
   107 mEq/L
   138 mEq/L
   34.3 %
   6.7 K/uL
         [image002.jpg]
                             [**2123-5-16**]  02:27 PM
                             [**2123-5-16**]  05:25 PM
                             [**2123-5-16**]  07:15 PM
                             [**2123-5-16**]  11:58 PM
                             [**2123-5-17**]  05:00 AM
                             [**2123-5-17**]  12:00 PM
                             [**2123-5-17**]  05:45 PM
                             [**2123-5-17**]  11:14 PM
                             [**2123-5-18**]  03:48 AM
   WBC
   6.7
   Hct
   34.3
   Plt
   224
   Cr
   0.9
   0.8
   0.7
   0.6
   0.7
   0.6
   0.6
   TCO2
   7
   Glucose
   [**Telephone/Fax (3) 7756**]72
   168
   269
   [**Telephone/Fax (3) 7765**]
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.2 mg/dL
   Imaging: [**5-16**] CXR
   CHEST, FRONTAL AND LATERAL VIEWS: The lungs are clear, without focal
   consolidation, effusion or pneumothorax. The cardiomediastinal contours
   are
   normal. Bones are intact.
   IMPRESSION: No acute intrathoracic process.
   Microbiology: [**5-16**] Blood cx pending w/ ngtd
   [**5-16**] Urine cx neg
   [**5-16**] blood cx NGTD
   Assessment and Plan
   21 F w/o significant pmh but w/ a strong family history of diabetes p/w
   DKA.
   .
   #. DKA: No h/o DM but family h/o diabetes.  AG 29 on admission w/ BS >
   600.  No obvious precipitant aside from ?URI, hyperglycemia likely has
   been simmering for several weeks.  Given presentation w/ DKA and young
   age seems c/w DM1 although given FH could be DM2.
   - q 4 hrs chemistry
   - resume glargine @ 20units today (got 15 units yesterday) and humalog
   today, discontinue insulin drip 1hr subsequently
   - continue to follow fingersticks q hourly
   - DC dextrose IVF when eating and insulin drip discontinued
   - followup HgA1c, C-peptide, anti-GAD ab, anti-Islet cell
   - followup pending cultures.
   - swab throat for strep, sputum if making sputum
   - social work c/s
   .
   # Acute Renal Failure: Resolved, very likely pre-renal at admit
   .
   # Anemia
   Hct down in the setting of IVF resuscitation. No gross bleeding.
   - Continue to trend Hct daily
   - Check iron panel (MCV 79)
   .
   # Abnormal prior PAP:
   - Outpt follow up
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  Insulin infusion, insulin plans as above
   Lines:
   18 Gauge - [**2123-5-16**] 04:00 PM
   20 Gauge - [**2123-5-16**] 04:00 PM
   Prophylaxis:
   DVT: ambulating
   Stress ulcer: Not indicated
   VAP:  n/a
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2123-05-19 07:55:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   - increased glargine to 30units [**First Name8 (NamePattern2) **] [**Last Name (un) **] recs
   - glucose continued to run in 300's overnight
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cough improved, feeling well
   Flowsheet Data as of  [**2123-5-19**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 80 (80 - 115) bpm
   BP: 111/65(76) {111/65(76) - 147/101(107)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  5,379 mL
                                                                    788 mL
   PO:
                                                                  3,900 mL
             TF:
   IVF:
                                                                  1,479 mL
                                                                    788 mL
   Blood products:
   Total out:
                                                                  5,400 mL
                                                                  1,200 mL
   Urine:
                                                                  5,400 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -21 mL
                                                                   -412 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   GENERAL: Pleasant, tired-appearing, NAD
   HEENT: MMM, mild erythema of posterior pharynx
   CARDIAC: Regular rhythm, borderline tachycardic. Normal S1, S2. No
   murmurs, rubs or [**Last Name (un) 1011**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Soft, nt, nd, nabs
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate.
   Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   221 K/uL
   11.3 g/dL
   317 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   8 mg/dL
   102 mEq/L
   136 mEq/L
   33.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2123-5-16**]  07:15 PM
                             [**2123-5-16**]  11:58 PM
                             [**2123-5-17**]  05:00 AM
                             [**2123-5-17**]  12:00 PM
                             [**2123-5-17**]  05:45 PM
                             [**2123-5-17**]  11:14 PM
                             [**2123-5-18**]  03:48 AM
                             [**2123-5-18**]  11:11 AM
                             [**2123-5-18**]  09:35 PM
                             [**2123-5-19**]  05:21 AM
   WBC
   6.7
   6.3
   Hct
   34.3
   33.2
   Plt
   224
   221
   Cr
   0.9
   0.8
   0.7
   0.6
   0.7
   0.6
   0.6
   0.7
   0.7
   Glucose
   [**Telephone/Fax (3) 7794**]67
   317
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.3 mg/dL
   Microbiology: [**5-16**], [**5-18**] Blood cx ngtd
   [**5-18**] strep swab pending
   [**5-16**] MRSA screen pending
   Assessment and Plan
   21 F w/o significant pmh but w/ a strong family history of diabetes p/w
   DKA.
   .
   #. DKA: No h/o DM but family h/o diabetes.  AG 29 on admission w/ BS >
   600.  No obvious precipitant aside from ?URI, hyperglycemia likely has
   been simmering for several weeks.  Given presentation w/ DKA and young
   age seems c/w DM1 although given FH could be DM2. Gap now closed and
   off insulin gtt.
   - Appreciate [**Last Name (un) 303**] recs
   - follow lytes
   - resumed glargine [**5-18**] 20units, now uptitrated to 40 units today [**First Name8 (NamePattern2) **]
   [**Last Name (un) 303**]. Also on standing humalog 10 units with meals.
   - continue to follow fingersticks q hourly
   - followup HgA1c, C-peptide, anti-GAD ab, anti-Islet cell
   - followup pending cultures.
   - swab throat for strep, sputum if making sputum
   - social work c/s
   .
   # Acute Renal Failure: Resolved, very likely pre-renal at admit
   .
   # Anemia
   Hct down in the setting of IVF resuscitation. No gross bleeding. Iron
   deficiency on labs
   - Continue to trend Hct daily
   - Check iron panel (MCV 79)
   .
   # Abnormal prior PAP:
   - Outpt follow up
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2123-5-18**] 03:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2123-05-19 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-19**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 101 (80 - 115) bpm
   BP: 114/84(90) {111/65(76) - 147/101(107)} mmHg
   RR: 15 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  5,379 mL
                                                                    807 mL
   PO:
                                                                  3,900 mL
             TF:
   IVF:
                                                                  1,479 mL
                                                                    807 mL
   Blood products:
   Total out:
                                                                  5,400 mL
                                                                  1,200 mL
   Urine:
                                                                  5,400 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -21 mL
                                                                   -393 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   221 K/uL
   317 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   8 mg/dL
   102 mEq/L
   136 mEq/L
   33.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2123-5-16**]  07:15 PM
                             [**2123-5-16**]  11:58 PM
                             [**2123-5-17**]  05:00 AM
                             [**2123-5-17**]  12:00 PM
                             [**2123-5-17**]  05:45 PM
                             [**2123-5-17**]  11:14 PM
                             [**2123-5-18**]  03:48 AM
                             [**2123-5-18**]  11:11 AM
                             [**2123-5-18**]  09:35 PM
                             [**2123-5-19**]  05:21 AM
   WBC
   6.7
   6.3
   Hct
   34.3
   33.2
   Plt
   224
   221
   Cr
   0.9
   0.8
   0.7
   0.6
   0.7
   0.6
   0.6
   0.7
   0.7
   Glucose
   [**Telephone/Fax (3) 7794**]67
   317
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   21 yo previously healthy female with new onset  DKA (gap 29, sugar 600)
   with strong family hx of DM.
 NEW ONSET DIABETIC KETOACIDOSIS (DKA)-no clear precipitating factor,
   perhaps simply new diagnosis vs URI given cough. Had recurrence of
   anion gap on attempt to transition to long acting, will try again
   today.
   -cont  insulin gtt given recurrent gap.
   -plan to transition gtt to glargine + humalog and sliding scale and off
   drip this AM.
   -Advance diet
    -D5
 NS at 100 cc/hr with plan to turn off when tolerating PO
   -follow serial lytes --> replete phos, Mg, K, and Ca
   -[**Last Name (un) 303**] following, appreciate input
   -f/u HgA1c, C-peptide and anti-GAD ab
 CONSTIPATION- start scheduled laxatives/ stool softeners
 COUGH-  rule out infection, more likely to be seasonal allergies
   -Obtain throat swa, sputum clx.
   - can start inhaled nasal steroid if sputum neg
   Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2123-5-18**] 03:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes